US06528525B1
(a) Methyl 3′-formylbiphenyl-4-carboxylate
A solution of tetrakis(triphenylphosphine)palladium (297 mg) was added to a solution of 3-formylphenylboric acid (3.00 g) and methyl 4-bromobenzoic acid (4.30 g) in a mixture of toluene (30 ml), ethanol (50 ml) and saturated aqueous sodium hydrogencarbonate solution (30 ml) at ambient temperature. The mixture was heated at reflux for 2 hours at 100° C. The reaction mixture was partitioned between ethyl acetate and water and the layers were separated. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to afford the title compound (3.37 g) as colorless crystals.

reactant | 3-formylphenylboric acid | 3.00 g | C(=O)C=1C=C(C=CC1)OB(O)O | C7H7BO4
reactant | methyl 4-bromobenzoic acid | 4.30 g | CC1=C(C(=O)O)C=CC(=C1)Br | C8H7BrO2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 297 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3′-formylbiphenyl-4-carboxylate | 3.37 g | C(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C15H12O3
